US05214037
To a solution of 7β-amino-3-(trityl-1,2,3-triazol-4-ylthiomethyl-thio) -3-cephem-4-carboxylic acid diphenylmethyl ester (800 mg : 1.06 mMol.) and 2-(2-t-butoxycarbonylaminothiazol-4-yl) acetic acid (287 mg : 1.11 mMol.) in dichloromethane (8 ml) cooling at -30° C. are added N- methylmorpholine (0.27 ml: 2.46 mMol.) and phenyl dichlorophosphate (0.19 ml : 1.27 mMol.), and the mixture is stirred at -30° C. for 40 minutes. The reaction mixture is quenched with 10% hydrochloric acid (1 ml), diluted with water, and extracted with ethyl acetate. The extract is washed with brine, dried over sodium sulfate, and concentrated. The residue is purified by silica gel chromatography (toluene : ethyl acetate=3:1) to give 7β-2-(2-t-butoxycarbonylaminothiazol- 4-yl) acetamido]-3-(trityl-1,2,3-triazol-4-ylthiomethylthio) -3-cephem-4- carboxylic acid diphenylmethyl ester (812 mg) as pale yellow foam Yield : 77%.

reactant | 7β-amino-3-(trityl-1,2,3-triazol-4-ylthiomethyl-thio) -3-cephem-4-carboxylic acid diphenylmethyl ester | 1.06 mMol, 800 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2N)=O)SC(SC=2N=NNC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C42H35N5O3S3
reactant | 2-(2-t-butoxycarbonylaminothiazol-4-yl) acetic acid | 1.11 mMol, 287 mg | C(C)(C)(C)OC(=O)NC=1SC=C(N1)CC(=O)O | C10H14N2O4S
reactant | N- methylmorpholine | 2.46 mMol, 0.27 ml | CN1CCOCC1 | C5H11NO
reactant | phenyl dichlorophosphate | 1.27 mMol, 0.19 ml | P(=O)(OC1=CC=CC=C1)(Cl)Cl | C6H5Cl2O2P
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | 3-(trityl-1,2,3-triazol-4-ylthiomethylthio) -3-cephem-4- carboxylic acid diphenylmethyl ester | 812 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C(C2)=O)SC(SC=2N=NNC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C42H34N4O3S3
